US08466186B2
N-(4-Trifluoromethyl-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfonamide
A mixture of N-(4-trifluoromethyl-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfinamide (140 mg, 0.23 mmol), m-chloroperoxybenzoic acid (198 mg, 1.15 mmol) and CHCl3 (7 mL) was stirred at rt for 15 min. The mixture was poured into brine and extracted with DCM. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was mixed with PBr3 (144 mg, 0.50 mmol) and DCM (5 ml) and the mixture was stirred at rt overnight. The mixture was poured into H2O and extracted with DCM. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. Purification by column chromatography gave the title compound.

reactant | N-(4-trifluoromethyl-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfinamide | 0.23 mmol, 140 mg | FC(C1=C(C=C(CNS(=O)C(C)(C)C)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C26H30ClF6N5OS
reactant | m-chloroperoxybenzoic acid | 1.15 mmol, 198 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | CHCl3 | 7 mL | C(Cl)(Cl)Cl | CHCl3
reactant | PBr3 | 0.50 mmol, 144 mg | P(Br)(Br)Br | Br3P
solvent | brine | [Cl-].[Na+].O
solvent | H2O | O | H2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Trifluoromethyl-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfonamide | FC(C1=C(C=C(CNS(=O)(=O)C(C)(C)C)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C26H30ClF6N5O2S
